US04978753
A mixture of 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine (13.5 g.; 0.05 mole), dimethyl acetylenedicarboxylate (7.1 g.; 0.05 mole) and 250 ml. of methanol were refluxed for 2 hours and evaporated. The residue was dissolved in 50 ml. of methylene chloride and chromatographed on 2 kg. of silica gel using 60% ethyl acetate 40% cyclohexane. Fractions 1-6 (4.5 l.) gave no material. Fractions 6-51 were discarded. Fraction 52-54 gave 6.3 g. of solids which were crystallized from methylene chloride ether to give 1-carbomethoxy-9-chloro-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one 3.1 g. of melting point 214°-215° C. dec., raised to 216°-217° C. on recrystallization from methanol-ether.

reactant | 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine | 0.05 mole, 13.5 g | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C15H12ClN3
reactant | dimethyl acetylenedicarboxylate | 0.05 mole, 7.1 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | CO | CH4O
product | 1-carbomethoxy-9-chloro-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | 3.1 g | C(=O)(OC)C1=CC(N=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)=O | C20H14ClN3O3
